US04171361
1-methyl-3-[4-(2-furoyl)piperazino]-6,7-methylenedioxy-1H-1,2,4-benzothiadiazine-1-oxide hydrochloride melting at 242°-5° C.
By employing 2,3,4-trimethoxy-6-nitrophenylbromide as a starting material, and following the procedures of the above examples, 1-methyl-3-[4-(2-furoyl)-piperazino]-6,7,8-trimethoxy-1H-1,2,4-benzothiadiazine-1-oxide hydrochloride was prepared. The compound melted at 130°-2° C.

reactant | 2,3,4-trimethoxy-6-nitrophenylbromide | COC1=C(C(=CC(=C1OC)OC)[N+](=O)[O-])Br | C9H10BrNO5
reactant | 1-methyl-3-[4-(2-furoyl)-piperazino]-6,7,8-trimethoxy-1H-1,2,4-benzothiadiazine-1-oxide hydrochloride | Cl.CS1(NC(=NC2=C1C(=C(C(=C2)OC)OC)OC)N2CCN(CC2)C(=O)C=2OC=CC2)=O
product | 1-methyl-3-[4-(2-furoyl)piperazino]-6,7-methylenedioxy-1H-1,2,4-benzothiadiazine-1-oxide hydrochloride | Cl.CS1(NC(=NC2=C1C=C1C(=C2)OCO1)N1CCN(CC1)C(=O)C=1OC=CC1)=O | InChI=1S/C18H20N4O5S.ClH/c1-28(24)16-10-15-14(26-11-27-15)9-12(16)19-18(20-28)22-6-4-21(5-7-22)17(23)13-3-2-8-25-13;/h2-3,8-10,28H,4-7,11H2,1H3,(H,19,20,24);1H
